US06878736B1
Step b N-(tert-Butoxycarbonyl)-N-(4-chlorobenzyl)-methanesulfonamide.
To a solution of N-(4-chlorobenzyl)-methanesulfonamide (15.30 g, 69.6 mmol) and di-tert-butyl-dicarbonate (18.27 g, 83.6 mmol) in DCM (150 ml) was carefully added N,N-dimethylaminopyridine (848 mg, 6.96 mmol) there was immediate and vigorous effervescence. The solution was stirred for 30 min, by which time effervescence had ceased. The solution was diluted to a total volume of 500 ml with DCM and washed twice with 10% citric acid solution and then brine. The solvent was evaporated to give a yellow solid, which was recrystallised from hot propan-2-ol (100 ml). The precipitate was collected by filtration and dried in vacuo at 50° C. to afford the product as a colourless crystalline solid (19.70 g, 89%).

reactant | N-(4-chlorobenzyl)-methanesulfonamide | 69.6 mmol, 15.30 g | ClC1=CC=C(CNS(=O)(=O)C)C=C1 | C8H10ClNO2S
reactant | di-tert-butyl-dicarbonate | 83.6 mmol, 18.27 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(tert-Butoxycarbonyl)-N-(4-chlorobenzyl)-methanesulfonamide | 19.70 g, 89% | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)CC1=CC=C(C=C1)Cl | C13H18ClNO4S
